US06660753B2
A mixture of 3-(2-pyridyl)-5-(3-cyano-5-hydroxyphenyl)-1,2,4-oxadiazole (30 mg, 0.11 mmol), potassium carbonate (31 mg, 0.23 mmol) and chloromethyl methyl ether (26 μL, 0.34 mmol) in N,N-dimethylformamide (1 mL) was heated in a sealed vial at 70° C. for 2 hour. The reaction was cooled, diluted with dichloromethane, washed with water (3×) and saturated brine, filtered and concentrated. Silica gel chromatography using 20-30% hexanes/ethyl acetate afforded 19 mg (54%) of 3-(2-Pyridyl)-5-(3-cyano-5-(methoxymethoxy)phenyl)-1,2,4-oxadiazole: 1H NMR (CDCl3), δ (ppm): 8.86 (d, 1H), 8.24 (d, 1H), 8.22 (s, 1H), 8.15 (s, 1H), 7.91 (t, 1H), 7.56 (s, 1H), 7.49 (m, 1H), 5.31 (s, 2H), 3.52 (s, 3H).

reactant | 3-(2-pyridyl)-5-(3-cyano-5-hydroxyphenyl)-1,2,4-oxadiazole | 0.11 mmol, 30 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)O)C#N | C14H8N4O2
reactant | potassium carbonate | 0.23 mmol, 31 mg | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl methyl ether | 0.34 mmol, 26 μL | COCCl | C2H5ClO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(2-Pyridyl)-5-(3-cyano-5-(methoxymethoxy)phenyl)-1,2,4-oxadiazole | 19 mg, 54% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)OCOC)C#N | C16H12N4O3
